US08372823B2
1-Oxo-1-[5-(2-pyridyl)oxazol-2-yl]-3-(3-(benzyloxy)phenyl)-propane (11c)
The title compound was prepared from 5-(2-pyridyl)oxazole and 3-(3-(benzyloxy)phenyl)propanoic acid (Bänteli, R.; Brun, I.; et al. Tetrahedron Lett. 1999, 40, 2109-2112) using General Procedure B. Column chromatography (SiO2, 2.5×6 cm, 10-20% EtOAc-hexanes gradient) followed by PTLC (SiO2, 50% EtOAc-hexanes) afforded 11c (46 mg, 0.12 mmol, 18%) as a yellow solid: 1H NMR (CDCl3, 400 MHz) 8.67 (m, 1H), 7.88 (s, 1H), 7.87-7.85 (m, 1H), 7.81 (td, 1H, J=7.8, 1.8 Hz), 7.45 (d, 2H, J=8.5 Hz), 7.38 (t, 2H, J=7.3 Hz), 7.32 (t, 2H, J=6.8 Hz), 7.22 (t, 2H, J=7.9 Hz), 6.92 (d, 2H, J=2.1 Hz), 6.88 (d, 2H, J=7.6 Hz), 6.83 (dd, 2H, J=7.9, 2.4 Hz), 5.06 (s, 2H), 3.47 (t, 2H, J=7.4 Hz), 3.10 (t, 2H, J=7.4 Hz); 13C NMR (CDCl3, 100 MHz) 187.2, 158.9, 157.2, 153.4, 150.1, 146.2, 142.0, 137.1, 137.0, 129.5, 128.5, 127.9, 127.5, 127.0, 124.2, 121.0, 120.4, 115.1, 112.5, 69.9, 40.5, 29.7; IR (film) νmax 3073, 3032, 2929, 1697, 1601, 1582, 1499, 1468, 1452, 1425, 1380, 1256, 1154, 1027, 784, 737, 695 cm−1; ESI-TOF m/z 385.1549 (C24H20N2O3+H+ requires 385.1547).

reactant | 5-(2-pyridyl)oxazole | N1=C(C=CC=C1)C1=CN=CO1 | C8H6N2O
reactant | 3-(3-(benzyloxy)phenyl)propanoic acid | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCC(=O)O | C16H16O3
product | 1-Oxo-1-[5-(2-pyridyl)oxazol-2-yl]-3-(3-(benzyloxy)phenyl)-propane | 0.12 mmol, 46 mg, 18% | O=C(CCC1=CC(=CC=C1)OCC1=CC=CC=C1)C=1OC(=CN1)C1=NC=CC=C1 | C24H20N2O3
